US04069327
By the procedure of Example 46, reacting 2-(3-aminopropylamino)thiazole (prepared from 2-aminothiazole by the method of Example 53) with benzoyl isothiocyanate gives N-benzoyl-N'-[(3-(2-thiazolylamino)propyl]thiourea. Removing the benzoyl group by the procedure of Example 46 gives N-[3-(2-thiazolylamino)propyl]thiourea.

reactant | 2-(3-aminopropylamino)thiazole | NCCCNC=1SC=CN1 | C6H11N3S
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
reactant | benzoyl isothiocyanate | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
product | (3-(2-thiazolylamino)propyl]thiourea | S1C(=NC=C1)NCCCNC(=S)N | C7H12N4S2
